US05302724
B. 5-Chloro-N-[[(4-chlorophenyl)amino]carbonyl]-2-thiophenesulfonamide
To a solution of 5-chloro-2-thiophenesulfonamide 1.9 g, 10 mmole) in 10 ml of acetone was added aqueous sodium hydroxide (10 ml of 1N. 10 mmole) followed by a solution of 4-chlorophenyl isocyanate (1.54 g, 10 mmole) dissolved in 10 ml of acetone. This mixture was stirred at room temperature overnight. The reaction mixture was concentrated under vacuum and acidified with aqueous hydrochloric acid (10 ml of 1N, 10 mmole). The precipitate was filtered and the residue washed with hexanes and water. The solid was dried in a vacuum oven.

reactant | 5-chloro-2-thiophenesulfonamide | 10 mmole, 1.9 g | ClC1=CC=C(S1)S(=O)(=O)N | C4H4ClNO2S2
reactant | sodium hydroxide | 10 mmole, 1N, 10 ml | [OH-].[Na+]
reactant | 4-chlorophenyl isocyanate | 10 mmole, 1.54 g | ClC1=CC=C(C=C1)N=C=O | C7H4ClNO
reactant | hydrochloric acid | 10 mmole, 1N, 10 ml | Cl | ClH
solvent | acetone | 10 ml | CC(=O)C | C3H6O
solvent | acetone | 10 ml | CC(=O)C | C3H6O
product | 5-Chloro-N-[[(4-chlorophenyl)amino]carbonyl]-2-thiophenesulfonamide | ClC1=CC=C(S1)S(=O)(=O)NC(=O)NC1=CC=C(C=C1)Cl | C11H8Cl2N2O3S2
